US07253286B2
7-Methoxy-4-oxo-1,4-dihydroquinoline-6-carboxylic acid
Glycerol (20 ml) and potassium hydroxide (KOH, 3.0 g) were added to the 7-methoxy-4-oxo-1,4-dihydroquinoline-6-carbonitrile (2 g) of Production Example 24, and after heating and stirring at 160° C. for 3 hours, water (40 ml) was added and the mixture was heated at 80° C. for 30 minutes. After cooling, 2N hydrochloric acid was added to acidity and the precipitated insoluble portion was filtered out, washed with water and then dried under reduced pressure to obtain the title compound (1.6 g).

reactant | Glycerol | 20 ml | OCC(O)CO | C3H8O3
reactant | potassium hydroxide | 3.0 g | [OH-].[K+]
reactant | 7-methoxy-4-oxo-1,4-dihydroquinoline-6-carbonitrile | 2 g | COC1=C(C=C2C(C=CNC2=C1)=O)C#N | C11H8N2O2
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | water | 40 ml | O | H2O
product | 7-Methoxy-4-oxo-1,4-dihydroquinoline-6-carboxylic acid | 1.6 g | COC1=C(C=C2C(C=CNC2=C1)=O)C(=O)O | C11H9NO4
